US08193372B2
5-(4-bromo-phenyl)-thiophen-3-ylamine
3-amino-5-(4-bromophenyl)thiophene-2-carboxylic acid (11.21 mmol), N-methyl piperazine (11.21 mmol) and N-methylpyrrolidinone (13.5 mL) were mixed together The reaction mixture was stirred at 160° C. for 5 hours and cooled down to room temperature. EtOAc and water were added, organics were separated, dried over Na2SO4, concentrated under reduced pressure and filtrated over silica (DCM/MeOH). Diisopropyl ether was added to the crude material and the residue obtained was filtered to give Intermediate IX.1 as a beige solid in 44% yield, which was characterized by the following spectroscopic data: MS (ESI, EI+) m/z=255 (MH+).

reactant | 3-amino-5-(4-bromophenyl)thiophene-2-carboxylic acid | 11.21 mmol | NC1=C(SC(=C1)C1=CC=C(C=C1)Br)C(=O)O | C11H8BrNO2S
reactant | N-methyl piperazine | 11.21 mmol | CN1CCNCC1 | C5H12N2
reactant | N-methylpyrrolidinone | 13.5 mL | CN1C(CCC1)=O | C5H9NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-(4-bromo-phenyl)-thiophen-3-ylamine | 44% yield | BrC1=CC=C(C=C1)C1=CC(=CS1)N | C10H8BrNS
